US04670551
2.6 ml of a solution of 5% by weight sulphur dioxide in methanesulphonic acid chloride are added to a solution of 1.75 g of 3β-acetoxy-11β-hydroxy-15β,16β-methyleneandrost-5-en-17-one in 10.5 ml of dimethylformamide and 3.5 ml of γ-collidine and the whole is stirred for 20 minutes, the internal temperature being allowed to rise to approximately 45°. While stirring, the mixture, including the precipitate that has formed, is poured onto 17.5 ml of ice-water and stirring is continued for a further 10 minutes. The oil that separates out is taken up in ethyl acetate and washed in succession with saturated sodium chloride solution, ice-cold dilute hydrochloric acid, ice-cold dilute sodium hydroxide solution and again with saturated sodium chloride solution. Evaporation of the solvent yields 3β-acetoxy-15β,16β-methyleneandrosta-5,9(11)-dien-17-one that is uniform according to thin-layer chromatography and is processed further without purification.

reactant | sulphur dioxide | S(=O)=O | O2S
reactant | 3β-acetoxy-11β-hydroxy-15β,16β-methyleneandrost-5-en-17-one | 1.75 g | C(C)(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4[C@H]5[C@@H](C([C@@]4(C)C[C@@H]([C@@H]3[C@]2(CC1)C)O)=O)C5 | C22H30O4
solvent | methanesulphonic acid chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | dimethylformamide | 10.5 ml | CN(C=O)C | C3H7NO
solvent | γ-collidine | 3.5 ml | CC1=CC(=NC(=C1)C)C | C8H11N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3β-acetoxy-15β,16β-methyleneandrosta-5,9(11)-dien-17-one | C(C)(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4[C@H]5[C@@H](C([C@@]4(C)CC=C3[C@]2(CC1)C)=O)C5 | C22H28O3
